US05750531
Synthesis of 2-(N-methylphenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)cyclopenta[d]pyrimidine hydrochloride
After N-methylaniline(0.20 ml, 1.90 mmol) was added to a mixture solution of 4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chlorocyclopenta[d]pyrimidine (0.51 g, 1.70 mmol) and dimethylformamide(5 ml), 0.20 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | N-methylaniline | 1.90 mmol, 0.20 ml | CNC1=CC=CC=C1 | C7H9N
reactant | 4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chlorocyclopenta[d]pyrimidine | 1.70 mmol, 0.51 g | CC1N(CCC2=CC=CC=C12)C1=C2C(NC(=N1)Cl)=CC=C2 | C17H16ClN3
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(N-methylphenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)cyclopenta[d]pyrimidine hydrochloride | 0.20 g, Yield: 29% | Cl.CN(C1=NC(=C2C(N1)=CC=C2)N2C(C1=CC=CC=C1CC2)C)C2=CC=CC=C2 | InChI=1S/C24H24N4.ClH/c1-17-20-12-7-6-9-18(20)15-16-28(17)23-21-13-8-14-22(21)25-24(26-23)27(2)19-10-4-3-5-11-19;/h3-14,17H,15-16H2,1-2H3,(H,25,26);1H
